US07834051B2
N-(3-chloro-4-cyanophenyl)valine
To a solution of 2-chloro-4-fluorobenzonitrile (3.50 g) in dimethyl sulfoxide (60 mL) were added L-valine (3.16 g) and cesium carbonate (9.53 g), and the mixture was stirred at 90° C. overnight. After allowing to room temperature, ethyl acetate was added, and the mixture was extracted twice with saturated aqueous sodium hydrogen carbonate solution. The aqueous layers were combined, and acidified with citric acid, and the mixture was extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound as a brown oil (yield: 5.69 g, 100%).

reactant | 2-chloro-4-fluorobenzonitrile | 3.50 g | ClC1=C(C#N)C=CC(=C1)F | C7H3ClFN
reactant | L-valine | 3.16 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | cesium carbonate | 9.53 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 60 mL | CS(=O)C | C2H6OS
product | N-(3-chloro-4-cyanophenyl)valine | yield: 5.69 g, 100% | ClC=1C=C(C=CC1C#N)N[C@@H](C(C)C)C(=O)O | C12H13ClN2O2
